US04248622
(b) 2-fluoro-fluoren-9-one-1-carboxylic acid (VIII)
The ethyl 2-fluoro-fluoren-9-one-1-carboxylate is mixed with 500 ml of NaOH 6N and refluxed for 2 hours. After cooling, the mixture is diluted with twice its volume of water and acidified with concentrated HCl. The yellow precipitate that forms is filtered and washed with water. The melting point of the pure product isolated from column chromatography on silica gel (eluant: CHCl3 /CH3CO2C2H5 3/1) is: 209.210° C.

reactant | ethyl 2-fluoro-fluoren-9-one-1-carboxylate | FC1=C(C=2C(C3=CC=CC=C3C2C=C1)=O)C(=O)OCC | C16H11FO3
reactant | NaOH | 6N, 500 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 2-fluoro-fluoren-9-one-1-carboxylic acid | FC1=C(C=2C(C3=CC=CC=C3C2C=C1)=O)C(=O)O | C14H7FO3
